US08022062B2
Use a method similar to the General Procedure 5-3 to couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (200 mg, 0.47 mmol) with 4-(2-methyl-[1,3]dioxolan-2-yl)-benzylamine (prepared by following the procedure described in J. Med. Chem. 1978, 21, 507) (182 mg, 0.94 mmol). Purify by chromatography on silica gel eluting with hexane/EtOAc (1:0, 19:1 and 9:1) to give 6-{4-(2-methyl-[1,3]dioxolan-2-yl)-benzylamino}-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as an oil (150 mg, 68%). GC-MS m/z 468 (M+).

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.47 mmol, 200 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 4-(2-methyl-[1,3]dioxolan-2-yl)-benzylamine | CC1(OCCO1)C1=CC=C(CN)C=C1 | C11H15NO2
product | 6-{4-(2-methyl-[1,3]dioxolan-2-yl)-benzylamino}-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 150 mg, 68% | CC1(OCCO1)C1=CC=C(CNC2=C(C=CC=3CCN(CCC32)C(C(F)(F)F)=O)Cl)C=C1 | C23H24ClF3N2O3
